US07759376B2
Step 1. Preparation of methyl N-({3′-fluoro-4′-[(6-fluoro-1,3-benzothiazol-2-yl)amino]biphenyl-4-yl}carbonyl)-L-valinate
3′-Fluoro-4′-[(6-fluoro-1,3-benzothiazol-2-yl)amino]biphenyl-4-carboxylic acid (0.084 g, 0.22 mmol) and L-valine methyl ester hydrochloride (0.044 g, 0.26 mmol) were suspended in CH2Cl2 (5 mL), and triethylamine (0.04 mL, 0.26 mmol), 1-hydroxybenzotriazole (0.0296 g, 0.22 mmol), and N,N′-diisopropylcarbodiimide (0.030 mL, 0.22 mmol) were added. DMF (2.0 mL) was added to achieve dissolution, and the reaction mixture was stirred at rt overnight. The reaction mixture was diluted with EtOAc (50 mL) and was washed with water (2×50 mL) and brine (50 mL). The combined organic phases were dried over MgSO4, filtered, and concentrated in vacuo. The crude material was purified by flash column chromatography (Biotage® system; 30-40% EtOAc/Hexanes gradient). This yielded 90.4 mg (83%) of the desired product as a white solid.

reactant | 3′-Fluoro-4′-[(6-fluoro-1,3-benzothiazol-2-yl)amino]biphenyl-4-carboxylic acid | 0.22 mmol, 0.084 g | FC=1C=C(C=CC1NC=1SC2=C(N1)C=CC(=C2)F)C2=CC=C(C=C2)C(=O)O | C20H12F2N2O2S
reactant | L-valine methyl ester hydrochloride | 0.26 mmol, 0.044 g | Cl.COC([C@@H](N)C(C)C)=O
reactant | triethylamine | 0.26 mmol, 0.04 mL | C(C)N(CC)CC | C6H15N
reactant | 1-hydroxybenzotriazole | 0.22 mmol, 0.0296 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N,N′-diisopropylcarbodiimide | 0.22 mmol, 0.030 mL | C(C)(C)N=C=NC(C)C | C7H14N2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
product | methyl N-({3′-fluoro-4′-[(6-fluoro-1,3-benzothiazol-2-yl)amino]biphenyl-4-yl}carbonyl)-L-valinate | FC=1C=C(C=CC1NC=1SC2=C(N1)C=CC(=C2)F)C2=CC=C(C=C2)C(=O)N[C@@H](C(C)C)C(=O)OC | C26H23F2N3O3S
